US06924391B2
(3R and 3S)-1-[4-(3-Methanesulfonyloxypropyl)phenoxy]-3-[4-(tert-butoxycarbonyl)phenoxy]-2-butanone
A solution of (3R and 3S)-1-[4-(3-hydroxypropyl)phenoxy]-3-[4-(tert-butoxycarbonyl)phenoxy]-2-butanone (1.57 g, 3.8 mmol) in dry dichloromethane (25 ml) was cooled to 0-50° C. and treated with triethylamine (1.1 ml, 7.9 mmol) followed by methanesulfonyl chloride (0.5 mL, 6.46 mmol) added dropwise over 2 minutes. After 45 minutes at 0-5° C., the reaction mixture was quenched by addition of ethyl acetate and saturated sodium bicarbonate. The organic phase was washed with brine and dried (anhydrous magnesium sulfate) and evaporated. Chromatography of the residual oil on silica gel (elution toluene-ethyl acetate, 9:1) gave 1.83 g (97%) of the title material as an oil.

reactant | 1-[4-(3-hydroxypropyl)phenoxy]-3-[4-(tert-butoxycarbonyl)phenoxy]-2-butanone | 3.8 mmol, 1.57 g | OCCCC1=CC=C(OCC(C(C)OC2=CC=C(C=C2)C(=O)OC(C)(C)C)=O)C=C1 | C24H30O6
reactant | triethylamine | 7.9 mmol, 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.46 mmol, 0.5 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 1-[4-(3-Methanesulfonyloxypropyl)phenoxy]-3-[4-(tert-butoxycarbonyl)phenoxy]-2-butanone | 1.83 g, 97% | CS(=O)(=O)OCCCC1=CC=C(OCC(C(C)OC2=CC=C(C=C2)C(=O)OC(C)(C)C)=O)C=C1 | C25H32O8S
